US04544400
A mixture of 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene (2.0 g, 5.5 mmol) and sodium azide (1.1 g, 16.6 mmol) in acetone (25 ml) is heated under reflux for 3.5 hours. The reaction is then cooled and filtered, and the filtrate is stripped. The residue is taken up in chloroform, washed with water (2X) and with brine, dried, stripped and purified by preparative thin layer chromatography (prep. TLC) (silica gel, eluting with 15% ethyl acetate/hexane) to give 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenyl azide.

reactant | 4-(2-chloro-4-trifluoromethylphenoxy)-1,2-dinitrobenzene | 5.5 mmol, 2.0 g | ClC1=C(OC2=CC(=C(C=C2)[N+](=O)[O-])[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H6ClF3N2O5
reactant | sodium azide | 16.6 mmol, 1.1 g | [N-]=[N+]=[N-].[Na+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 5-(2-chloro-4-trifluoromethylphenoxy)-2-nitrophenyl azide | ClC1=C(OC=2C=CC(=C(C2)N=[N+]=[N-])[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C13H6ClF3N4O3
